US07524562B2
Synthesis of ITR/DMBPA/BPA (90/5/5)
Into a 500 ml Morton flask equipped with a mechanical stirrer, a reflux condenser, a nitrogen bypass, a pH probe and a phosgene dip tube was placed 6.88 g of resorcinol, 100 ml of methylene chloride, 20 ml of water and 0.5 ml of 75 wt % aqueous methyltributylammonium (MTBA). The pH was adjusted to and maintained at 7 with 25 wt % of NaOH as 29 g of a 35 wt % solution of diacid chlorides (DACS) in methylene chloride (delivers 50 mmol of 50/50 isophthaloyl chloride (IPC)/terephthaloyl chloride (TPC)) was added over 4 minutes. The pH was raised to 10 and 100 μl of triethylamine (TEA), 50 mg of water and 0.21 g of phenol were added. The pH was maintained at 10 and 4.0 g of phosgene was added at 0.5 g/min. The final pH was 10.1. The polymer solution was separated from the brine by centrifugation and washed 1 time with 1N HCl and 3 times with deionized water. The polymer was isolated by hot water crumbing in a blender and collected by filtration and washed with water and dried in a vacuum oven at 110° C. overnight.

reactant | resorcinol | 6.88 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | methyltributylammonium | C[N+](CCCC)(CCCC)CCCC
reactant | NaOH | [OH-].[Na+]
reactant | phenol | 0.21 g | C1(=CC=CC=C1)O | C6H6O
reactant | phosgene | 4.0 g | C(=O)(Cl)Cl | CCl2O
solvent | water | 50 mg | O | H2O
solvent | triethylamine | 100 μl | C(C)N(CC)CC | C6H15N
solvent | water | 20 ml | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mmol | C(Cl)Cl | CH2Cl2
product | BPA | CC(C)(C=1C=CC(=CC1)O)C=2C=CC(=CC2)O | C15H16O2
